US09403768B2
TFA (2 mL, 26.0 mmol, Eq: 96.7) was added to a solution of tert-butyl (S)-1-((S)-1-((S)-2-(2,6-difluorophenylcarbamoyl)indolin-1-yl)-3-methyl-1-oxobutan-2-ylamino)-1-oxopropan-2-yl(methyl)carbamate (0.15 g, 269 μmol, Eq: 1.00) in DCM (2 mL) and the resulting solution was stirred at rt for 1 hr. The reaction mixture was concentrated in vacuo and treated with minimal ether/hexanes to give (S)-1-[(S)-3-methyl-2-((S)-2-methylamino-propionylamino)-butyryl]-2,3-dihydro-1H-indole-2-carboxylic acid (2,6-difluoro-phenyl)-amide as a white solid (0.11 g), m/z=459 (M+H).

reactant | TFA | 26.0 mmol, 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl (S)-1-((S)-1-((S)-2-(2,6-difluorophenylcarbamoyl)indolin-1-yl)-3-methyl-1-oxobutan-2-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 269 μmol, 0.15 g | FC1=C(C(=CC=C1)F)NC(=O)[C@H]1N(C2=CC=CC=C2C1)C([C@H](C(C)C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O | C29H36F2N4O5
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-[(S)-3-methyl-2-((S)-2-methylamino-propionylamino)-butyryl]-2,3-dihydro-1H-indole-2-carboxylic acid (2,6-difluoro-phenyl)-amide | 0.11 g | FC1=C(C(=CC=C1)F)NC(=O)[C@H]1N(C2=CC=CC=C2C1)C([C@H](C(C)C)NC([C@H](C)NC)=O)=O | C24H28F2N4O3
